US07846929B2
To a solution of 2-bromo-1-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)ethanone (1.0 eq) dissolved in EtOH was added thiourea. Reaction mixture was heated at 70° C. until completed, then extracted in dichloromethane with saturated bicarbonate solution one time. The organic layer is dried, filtered and concentrated to yield the crude intermediate. This intermediate is purified by flash chromatography to yield 4-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)thiazol-2-amine. MS (Q1) 413 (M+)

reactant | 2-bromo-1-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)ethanone | 1.0 eq | BrCC(=O)C1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl | C12H11BrClN3O2S
reactant | thiourea | NC(=S)N | CH4N2S
solvent | EtOH | CCO | C2H6O
product | 4-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)thiazol-2-amine | ClC=1N=C(C2=C(N1)C=C(S2)C=2N=C(SC2)N)N2CCOCC2 | C13H12ClN5OS2
